US05556524
2,2':5',2":5",2'"-quaterthiophene, T4
Thienylmagnesiumbromide, made from 13 gr (80 mmol) of T-Br and 2.43 gr (100 mmol) of magnesium in 50 ml of anhydrous ether, was added to a solution of 11.71 gr (36 mmol) of 5,5'-dibromo-2,2'-bithiophene and 100 mg (0.18 mmol) of Ni(dppp)Cl2 in 150 ml of ether. The reaction mixture was refluxed for 4 hours and subsequently poured on an ice/dilute hydrochloric acid mixture. The product was extracted with toluene and recrystallized from a mixture of toluene and ethanol. The resulting orange powder was dried in vacuo. Yield: 6,75 gr (20 mmol, 57%) of T4. M.p.: 203° C. (litt: 212). Elemental analysis: found% (theory%) C 56.49 (58.15), H 3.05 (3.05), S 37.0 (38.8). 1H-NMR (300 MHz, CDCl3): ∂=7.23 (2H, dd, J=5.0 and 1.0 Hz), ∂=7.19 (2H, dd, J=3.7 and 1.0 Hz), ∂=7.08 (4H, s), ∂=7.03 (2H, dd, J=5.0 and 3.7 Hz). M/z: 330 D (M.W.=330).

reactant | Thienylmagnesiumbromide | S1C(=CC=C1)[Mg]Br
reactant | 2-bromothiophene | 80 mmol, 13 gr | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 100 mmol, 2.43 gr | [Mg] | Mg
reactant | 5,5'-dibromo-2,2'-bithiophene | 36 mmol, 11.71 gr | BrC1=CC=C(S1)C=1SC(=CC1)Br | C8H4Br2S2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
catalyst | Ni(dppp)Cl2 | 0.18 mmol, 100 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 2,2':5',2":5",2'"-quaterthiophene | S1C(=CC=C1)C=1SC(=CC1)C=1SC(=CC1)C=1SC=CC1 | C16H10S4
